US06586447B1
5F. 4-[6-(4-Formyl-phenyl)-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide
4-(6-Bromo-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide (306 mg, 0.517 mmol) was dissolved in a solution of 6 ml of toluene and 1 ml of EtOH under an atmosphere of dry N2. To this solution was added tetrakis(triphenylphosphine)palladium (0) (34 mg, 0.029 mmol) followed by a solution of Na2CO3 (126 mg, 1.19 mmol) dissolved in 1 ml of water and 4-formylbezeneboronic acid (116 mg, 0.776 mmol). The reaction mixture was heated to 100° C. and reacted at this temperature overnight. The reaction mixture was cooled to ambient temperature and then partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer was washed two more times with EtOAc. The combined EtOAc layers were dried over Na2SO4, filtered and concentrated under vacuum to give a dark oil. The oil was purified using radial chromatography eluting with MeOH/DCM (5:95) to give 258 mg of the titled compound as a solid.

reactant | 4-(6-Bromo-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 0.517 mmol, 306 mg | BrC1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C29H27BrN4O3S
reactant | Na2CO3 | 1.19 mmol, 126 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-formylbezeneboronic acid | 0.776 mmol, 116 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 1 ml | CCO | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.029 mmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[6-(4-Formyl-phenyl)-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 258 mg | C(=O)C1=CC=C(C=C1)C1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C36H32N4O4S
